US04971990
A suspension of 8.00 g of 2-(2-chloroethoxy)-4-fluoroanisole, 5.75 g of phthalimide and 3.24 g of potassium carbonate in 15 ml of N,N-dimethylformamide was heated for 2 hours at 120°-130° C. After cooling, the reaction mixture was poured into water. The precipitate was filtered to give 10.4 g of N-[2-(5-fluoro-2-methoxyphenoxy)ethyl]phthalimide as colorless crystals, which were recrystallized from ethanol as colorless needles, m.p. 134.5°-136° C.

reactant | 2-(2-chloroethoxy)-4-fluoroanisole | 8.00 g | ClCCOC1=C(C=CC(=C1)F)OC | C9H10ClFO2
reactant | phthalimide | 5.75 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | potassium carbonate | 3.24 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | N-[2-(5-fluoro-2-methoxyphenoxy)ethyl]phthalimide | 10.4 g | FC=1C=CC(=C(OCCN2C(C=3C(C2=O)=CC=CC3)=O)C1)OC | C17H14FNO4
